US04788206
A solution of (E)-5,5-diphenyl-2-methyl-2,4-pentadienoic acid (1.85 g) and 4-nitrophenol (1.12 g) in dichloromethane (25 mL), stirred at 0°-5° C. in an ice-water bath, was treated with 1,3-dicyclohexylcarbodiimide (1.44 g). The mixture was stirred at 0°-5° C. for 30 minutes, then at room temperature for 1 hour. After the precipitated dicyclohexylurea was filtered off, the concentrated filtrate was passed through a short column of silica gel (~25 g) made up in dichloromethane-hexane (3:2). The appropriate fractions were combined and evaporated to give 2.4 g of (E)-5,5-diphenyl-2-methyl-2,4-pentadienoic acid 4-nitrophenyl ester. Crystallization of the material from 2-propanol furnished 1.64 g of (E)-5,5-diphenyl-2-methyl-2,4-pentadienoic acid 4-nitrophenyl ester mp 139°-141° C.

reactant | (E)-5,5-diphenyl-2-methyl-2,4-pentadienoic acid | 1.85 g | C1(=CC=CC=C1)C(=C/C=C(/C(=O)O)\C)C1=CC=CC=C1 | C18H16O2
reactant | 4-nitrophenol | 1.12 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-5,5-diphenyl-2-methyl-2,4-pentadienoic acid 4-nitrophenyl ester | 2.4 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C(=C\C=C(C1=CC=CC=C1)C1=CC=CC=C1)\C)=O | C24H19NO4
